US05932607
3-(2-Methyl-1-imidazolyl)-1,1-diphenylpropanol
In a 200 ml two-neck flask, under an atmosphere of argon, a solution of ethyl 3-(2-methyl-1-imidazolyl)propionate (3.37 g, 18.5 mmol) in anhydrous tetrahydrofuran was added to 50 ml of 1.8M phenyllithium solution at 0° C. After stirred for 3.5 hours at 10° C., the mixture was allowed to stand overnight at room temperature. The solution was poured into water, which was extracted with ethyl acetate. The organic extract was washed with saturated saline solution and dried over anhydrous sodium sulfate, followed by concentration. The residue was purified by silica gel chromatography (elution solvent; ethyl acetate-ethanol=10:1) and then recrystallized from n-hexane-ethyl acetate. This was further recrystallized from ethanol-benzene to give 320 mg of title compound as white needle-like crystals. Yield: 6%

reactant | ethyl 3-(2-methyl-1-imidazolyl)propionate | 18.5 mmol, 3.37 g | CC=1N(C=CN1)CCC(=O)OCC | C9H14N2O2
reactant | phenyllithium | 1.8M, 50 ml | C1(=CC=CC=C1)[Li]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-Methyl-1-imidazolyl)-1,1-diphenylpropanol | 320 mg, Yield: 6% | CC=1N(C=CN1)CCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H20N2O
